US06248740B1
Production of 2-[6-[3-[4-(diphenylmethoxy)piperidino]propyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid
905 mg of ethyl 2-[6-[3-[4-(diphenylmethoxy) piperidino]propyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride was dissolved in 6 ml of ethanol; 5.9 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by thermal refluxing for 2 hours. After cooling, the mixture was concentrated under reduced pressure; the residue was diluted with water and ajusted to pH 4.5 by the addition of 1 N hydrochloric acid. The mixture was crystallized by the addition of acetone, washed with acetone and dried to yield 476 mg of the title compound.

reactant | ethyl 2-[6-[3-[4-(diphenylmethoxy) piperidino]propyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride | 905 mg | Cl.Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=CC=C2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-[6-[3-[4-(diphenylmethoxy)piperidino]propyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid | 476 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C)C2=CC=CC=C2 | C31H36N4O3
